US06525220B2
5-[4-(6-Methoxy-1-methylbenzimidazol-2-ylmethoxy)benzyl]thiazolidin-2,4-dione mono-hydrochloride
To a suspension of 2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxy-N-(4-methoxy-2-methylaminophenyl)acetamide (3.0 g) in methanol (46 ml) was added 2 mol/l hydrogen chloride-methanol (14 ml) and the mixture was heated under reflux for 4 hours. The reaction mixture was cooled to 40° C. and stirred at the same temperature for 1 hour. At the end of this time the reaction mixture was cooled to 25° C. and the precipitated crystals were filtered to give the title compound (2.9 g, yield 92%). Melting point, IR spectrum and NMR spectrum of this compound are substantially identical with those of the compound obtained in Example 5.

reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxy-N-(4-methoxy-2-methylaminophenyl)acetamide | 3.0 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC)NC)C=C1 | C20H21N3O5S
reactant | hydrogen chloride methanol | 2 mol/l, 14 ml | Cl.CO
solvent | methanol | 46 ml | CO | CH4O
product | 5-[4-(6-Methoxy-1-methylbenzimidazol-2-ylmethoxy)benzyl]thiazolidin-2,4-dione mono-hydrochloride | 2.9 g, yield 92% | Cl.COC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | InChI=1S/C20H19N3O4S.ClH/c1-23-16-10-14(26-2)7-8-15(16)21-18(23)11-27-13-5-3-12(4-6-13)9-17-19(24)22-20(25)28-17;/h3-8,10,17H,9,11H2,1-2H3,(H,22,24,25);1H
